US06518257B1
(iii) Production of 1-[4′-fluoro-3′-(methoxymethyl)[1,1′-biphenyl]-3-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 1-[4′-fluoro-3′-(methoxymethyl)[1,1′-biphenyl]-3-yl]-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (1.35 g) and pyridine hydrochloride (469 mg), the colorless amorphous title compound (629 mg) was obtained.

reactant | 1-[4′-fluoro-3′-(methoxymethyl)[1,1′-biphenyl]-3-yl]-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 1.35 g | FC1=C(C=C(C=C1)C1=CC(=CC=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COC | C40H37FN2O2
reactant | pyridine hydrochloride | 469 mg | Cl.N1=CC=CC=C1
product | 1-[4′-fluoro-3′-(methoxymethyl)[1,1′-biphenyl]-3-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 629 mg | FC1=C(C=C(C=C1)C1=CC(=CC=C1)C(C(C)C)(O)C=1N=CNC1)COC | C21H23FN2O2
